US09102637B2
(b) 2-(naphthalen-2-ylamino)-5-[4-(piperazin-1-ylmethyl)benzamido]thiazole-4-carboxamide
A solution of tert-butyl 4-(4-{[4-carbamoyl-2-(naphthalen-2-ylamino)thiazol-5-yl]carbamoyl}benzy)piperazine-1-carboxylate (0.025 g, 0.04 mmol) in 4N HCl-dioxane (5 mL) was stirred for 2 hrs at rt under N2-atmosphere. The solvent was evaporated in vacuo, and the residue was washed with ether and purified by silica gel column chromatography eluted with 50% EtOAc in hexane to give 0.013 g (68% yield) of the titled compound.

reactant | tert-butyl 4-(4-{[4-carbamoyl-2-(naphthalen-2-ylamino)thiazol-5-yl]carbamoyl}benzy)piperazine-1-carboxylate | 0.04 mmol, 0.025 g | C(N)(=O)C=1N=C(SC1NC(=O)C1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1)NC1=CC2=CC=CC=C2C=C1 | C31H34N6O4S
solvent | HCl dioxane | 4N, 5 mL | Cl.O1CCOCC1
product | 2-(naphthalen-2-ylamino)-5-[4-(piperazin-1-ylmethyl)benzamido]thiazole-4-carboxamide | 0.013 g, 68% yield | C1=C(C=CC2=CC=CC=C12)NC=1SC(=C(N1)C(=O)N)NC(C1=CC=C(C=C1)CN1CCNCC1)=O | C26H26N6O2S
